US07262200B2
To 5-Fluoro-2-nitro-benzamide (850 mg, 4.07 mmol) in THF (100 mL), was added piperdine (381 mg, 4.47 mmol) and diisopropyl ethyl amine (780 mL, 4.07 mmol) and the solution was heated to 70 C in a sealed tube for 12 h. The resulting yellow precipitate was collected to give 2-Nitro-5-piperidin-1-yl-benzamide 948 mg (100% yield) HPLC tr=3.58 min (100%), FIA m/e 250.2(M+H) 248.8 (M−H); 1HNMR (500 MHz, dmso): δ 7.95 (1H, d), 7.85 91H, bs), 7.50 (1H, bs), 6.97 (1H, d), 6.80 (1H, s), 3.50 (4H, m), 1.70–1.50 (6H, m).

reactant | 5-Fluoro-2-nitro-benzamide | 4.07 mmol, 850 mg | FC=1C=CC(=C(C(=O)N)C1)[N+](=O)[O-] | C7H5FN2O3
reactant | piperdine | 4.47 mmol, 381 mg | N1CCCCC1 | C5H11N
reactant | diisopropyl ethyl amine | 4.07 mmol, 780 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-Nitro-5-piperidin-1-yl-benzamide | 948 mg, 100% yield | [N+](=O)([O-])C1=C(C(=O)N)C=C(C=C1)N1CCCCC1 | C12H15N3O3
